US04413141
To a solution of (±)-methyl 2-difluoromethyl-2,5-diaminopentanoate dihydrochloride (2.7 g) in dry methanol (30 ml) is added under nitrogen 2 equivalents of sodium methylate in methanol (0.46 g of sodium in 20 ml of methanol). The reaction mixture is stirred for 3 hours at room temperature, then the solvent is evaporated under reduced pressure. The residue is extracted with ether to yield crude (±)-3-amino-3-difluoromethyl-2-piperidone which is purified either by crystallization from CHCl3 /pentane (m.p. 149° C.) or by distillation (b.p. 135° C./0.05 mm Hg).

reactant | (±)-methyl 2-difluoromethyl-2,5-diaminopentanoate dihydrochloride | 2.7 g | Cl.Cl.FC(C(C(=O)OC)(CCCN)N)F
reactant | sodium methylate | C[O-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
solvent | methanol | 20 ml, 0.46 g | CO | CH4O
product | (±)-3-amino-3-difluoromethyl-2-piperidone | NC1(C(NCCC1)=O)C(F)F | C6H10F2N2O
